US07517995B2
tert-butyl[2-(3-cyclopropyl-[1,2,4]oxadiazol-5-yl)-ethyl]-carbamate
3.10 g (30.96 mmol) N-hydroxy-cyclopropanecarboxamidine are placed in 10 ml dimethylformamide and molecular sieve. 1.32 g (34.06 mmol) sodium hydride (60% in mineral oil) are added. The mixture is stirred for 0.1 hours at 50° C., then 7.40 g (34.06 mmol) ethyl 3-tert-butoxycarbonylamino-propionate in 20 ml dimethylformamide are added. The reaction mixture is stirred for 3 hours at 50° C. After cooling 15 ml of water are added, the mixture is suction filtered through Celite. The 2 phases of the filtrate are separated, the aqueous phase is extracted with ethyl acetate, the combined organic phase is evaporated down. The residue is purified by chromatography.

reactant | N-hydroxy-cyclopropanecarboxamidine | 30.96 mmol, 3.10 g | ONC(=N)C1CC1 | C4H8N2O
reactant | sodium hydride | 34.06 mmol, 1.32 g | [H-].[Na+]
reactant | ethyl 3-tert-butoxycarbonylamino-propionate | 34.06 mmol, 7.40 g | C(C)(C)(C)OC(=O)NCCC(=O)OCC | C10H19NO4
reactant | water | 15 ml | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | tert-butyl[2-(3-cyclopropyl-[1,2,4]oxadiazol-5-yl)-ethyl]-carbamate | C(C)(C)(C)OC(NCCC1=NC(=NO1)C1CC1)=O | C12H19N3O3
